US07304081B2
Step 6 methyl 4-(4-{1-[(4,4-dimethyl-2-oxo-1-oxa-7-azaspiro[4.4]non-7-yl)carbonyl]cyclopropyl}-3-fluorophenyl)piperazine-1-carboxylate
tert-Butyl 4-(4-{1-[(4,4-dimethyl-2-oxo-1-oxa-7-azaspiro[4.4]non-7-yl)carbonyl]cyclopropyl}-3-fluorophenyl)piperazine-1-carboxylate (25.0 mg, 0.0000485 mol) was treated with TFA. After stirring at rt for 30 min, the volatiles were removed in-vacuo and the residue was dried on high vaccum. The resultant TFA salt was dissolved in methylene chloride (0.25 mL, 0.0039 mol) and to this was added triethylamine (0.0203 mL, 0.000145 mol) followed by methyl chloroformate (0.00749 mL, 0.0000970 mol). The reaction mixture was stirred at rt for 1 h and then the volatiles were removed in-vacuo. The residue was diluted with methanol and applied directly on RP-HPLC to yield the desired product. LCMS (M+H) 474.2.

reactant | tert-Butyl 4-(4-{1-[(4,4-dimethyl-2-oxo-1-oxa-7-azaspiro[4.4]non-7-yl)carbonyl]cyclopropyl}-3-fluorophenyl)piperazine-1-carboxylate | 0.0000485 mol, 25.0 mg | CC1(CC(OC12CN(CC2)C(=O)C2(CC2)C2=C(C=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)F)=O)C | C28H38FN3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methylene chloride | 0.0039 mol, 0.25 mL | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 0.000145 mol, 0.0203 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.0000970 mol, 0.00749 mL | ClC(=O)OC | C2H3ClO2
product | methyl 4-(4-{1-[(4,4-dimethyl-2-oxo-1-oxa-7-azaspiro[4.4]non-7-yl)carbonyl]cyclopropyl}-3-fluorophenyl)piperazine-1-carboxylate | CC1(CC(OC12CN(CC2)C(=O)C2(CC2)C2=C(C=C(C=C2)N2CCN(CC2)C(=O)OC)F)=O)C | C25H32FN3O5
